US05597890
Preparation of 5-Bromo-2-(trifluoroacetamido) Benzophenone (hereafter "Compound 1")
To a solution of 17 g (61.6 mmol) of 2-amino-5-bromo benzophenone in 556 ml of diethyl ether (anhydrous) was added 64.3 g (0.61 mol) of anhydrous sodium carbonate. The mixture was cooled in an ice-bath and trifluoro acetic anhydride was added dropwise as rapidly as possible to maintain at the most a gentle reflux. The reaction mixture was removed from the ice-bath and stirred for 30 min. at room temperature. The white slurry was separated between 700 ml of water and 700 ml of methylene chloride. After removing the aqueous phase, the organic phase was washed twice with water and dried over MgSO4. Removal of the solvent gas 22.3 g (97.4% yield) of off-white solid. mp °C.; 1H NMR (CDCl3, 300 MHz) d: 7.54-7.59 (m,2H), 7.66-7.80 (m,5H), 8.55 (d,1H), 11.89 (br. s, 1H).

reactant | 2-amino-5-bromo benzophenone | 61.6 mmol, 17 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Br | C13H10BrNO
reactant | sodium carbonate | 0.61 mol, 64.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | trifluoro acetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | diethyl ether | 556 ml | C(C)OCC | C4H10O
product | 5-Bromo-2-(trifluoroacetamido) Benzophenone | 22.3 g, 97.4% yield | BrC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)NC(C(F)(F)F)=O | C15H9BrF3NO2
